US05043341
In addition, this intermediate can be acetylated with acetyl chloride in a solvent such as tetrahydrofuran in the presence of an acid scavenger, such as triethylamine, to give (S,S)-(+)-N-(2-hydroxycyclopentyl)acetamide. Treatment of this acetamide derivative with thionyl chloride results in the ring-closed intermediate (S,R)-4,5,6,6a-tetrahydro-2-methyl-3aH-cyclopentoxazole hydrochloride which is converted into (R,S)-(-)-2-aminocyclopentanol hydrochloride when allowed to reflux in the presence of dilute hydrochloric acid. This intermediate can then be used in any of the above schemes, preferably using the ergoline acid and carbonyldiimidazole, to give the (S,R) compound of this invention.

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
product | (S,S)-(+)-N-(2-hydroxycyclopentyl)acetamide | O[C@@H]1[C@H](CCC1)NC(C)=O | C7H13NO2
